
.options savecurrents

R1 1 2 1023.02308346
R2 3 2 2058.47187301
R3 2 4 3144.48265892
R4 4 0 4089.0992189
R5 4 5 3069.82128569
R6 6 7 2028.72154531
R7 7 8 1040.69982417
V1 1 0 5.1692937016
I1 8 5 0.0010485127294
G1 5 3 2 4 0.00721708907826
V2 0 6 0
H1 4 8 V2 8338.17212086

.control

op

echo "********************************************"
echo  "Simulated Results"
echo "********************************************"


echo  "sr_TAB"
print v(1) v(2) v(3) v(4) v(5) v(6) v(7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i]
echo  "sr_END"

quit

.endc

.end

