.option savecurrents
	
V2 N001 0 0 SIN(0 230 50 0 0 90) 
R4 N003 0 80k
C3 N003 0 0.000085
R5 N004 N003 28.1k
D19 N005 P001 D
D20 P001 P002 D
D21 P002 P003 D
D22 P003 P004 D
D49 P004 P005 D
D50 P005 P006 D
D51 P006 P007 D
D52 P007 P008 D
D53 P008 P009 D
D54 P009 P010 D
D55 P010 P011 D
D56 P011 P012 D
D57 P012 P013 D
D58 P013 P014 D
D59 P014 P015 D
D60 P015 N007 D
D62 0 N002 D
D63 N002 N003 D
D64 0 N006 D
D65 N006 N003 D
D66 N004 N005 D
E1 N002 N006 N001 0 0.25
D1 N007 0 D


.model D D
.end 
.op
	
.control
	
*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "****************"
echo  "Transient analysis"
echo "****************"
tran 1e-5 0.3 0.1

meas trans avg AVG v(n004) from=100m to=300m
meas trans vmin MIN v(n004) from=100m to=300m
meas trans vmax MAX v(n004) from=100m to=300m

let average = avg	
let deviation = {abs(mean(v(n004))-12)}
let ripple = {maximum(v(n004))-minimum(v(n004))}
let cost = 80+28.1+85+2.2
let merit = 1/(cost*((1e-6)+deviation+ripple))

echo "results_TAB"
print average deviation ripple cost merit
echo "results_END"
	
hardcopy envelope.ps v(n003)
echo envelope_FIG

hardcopy vout.ps v(n004)
echo vout_FIG

hardcopy desvio.ps v(n004)-12
echo desvio_FIG
	
	
quit
.endc
